US04853384
To a solution of 3.89 g of 4-phenyl-4-(4-trifluoromethylphenoxy)piperidine in 25 ml of benzene was added a solution of 0.68 g of methyl isocyanate in 25 ml of benzene. The reaction mixture was stirred for four hours at room temperaure. Evaporation of the volatiles afforded a solid which was purified by means of high pressure liquid chromatography (silica gel; elution with 50% ethyl acetate/dichloromethane). Recrystallization from 30% hexane/isopropyl ether yielded 2.46 g (54.19%) 1-(N-methylamino)carbonyl-4-phenyl-4-(4-trifluoromethylphenoxy)piperidine, m.p. 118°-120° C.

reactant | 4-phenyl-4-(4-trifluoromethylphenoxy)piperidine | 3.89 g | C1(=CC=CC=C1)C1(CCNCC1)OC1=CC=C(C=C1)C(F)(F)F | C18H18F3NO
reactant | methyl isocyanate | 0.68 g | CN=C=O | C2H3NO
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | 1-(N-methylamino)carbonyl-4-phenyl-4-(4-trifluoromethylphenoxy)piperidine | 2.46 g, 54.19% | CNC(=O)N1CCC(CC1)(OC1=CC=C(C=C1)C(F)(F)F)C1=CC=CC=C1 | C20H21F3N2O2
